US06706725B1
b) 1-(5-Bromo-3-pyridyl)propanone
44 g (180 mmol) of 5-bromo-N-methoxy-N-methylnicotinamide are dissolved in 200 mL of THF and 60 mL (180 mmol) of ethylmagnesium chloride solution (3M in ethyl ether) are added dropwise. The reaction medium is stirred at room temperature for one hour, poured into water and extracted with ethyl acetate. The organic phase is separated out after settling, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (70/30). 4 g (11%) of 1-(5-bromo-3-pyridyl)propanone are collected.

reactant | 5-bromo-N-methoxy-N-methylnicotinamide | 180 mmol, 44 g | BrC=1C=NC=C(C(=O)N(C)OC)C1 | C8H9BrN2O2
reactant | ethylmagnesium chloride | 180 mmol, 3M, 60 mL | C(C)[Mg]Cl
reactant | water | O | H2O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(5-Bromo-3-pyridyl)propanone | BrC=1C=C(C=NC1)CC(C)=O | C8H8BrNO
